US09169249B2
To a THF (23 ml) solution of (R)-tert-butyl 2-((N-methoxy-N-methylcarbamoyl)methyl)-4,4-difluoropyrrolidine-1-carboxylate (1.4 g, 4.54 mmol) over ice bath, 2-methyl-1-propenylmagnesium bromide solution (0.5 M in THF, 45 ml, 22.7 mmol) was added dropwise over 1 hour. Remove ice bath, stifling was continued for another 3 hours. The reaction was quenched with 1N HCl (aq., 30 ml) at 0° C., and was stirred at room temperature for 30 minutes. Two layers were separated, aqueous layer was extracted with EtOAc (25 ml×2), organic layers were combined, dried (Na2SO4), filtered, solvent was removed in vacuo. Product was purified by silica gel chromatography (Hexane/EtOAc, linear gradient from 100:0 to 80:20). Compound (R)-tert-butyl 4,4-difluoro-2-(4-methyl-2-oxopent-3-enyl)pyrrolidine-1-carboxylate was obtained as a light yellow oil: 1.10 g (79.5% yield).

reactant | (R)-tert-butyl 2-((N-methoxy-N-methylcarbamoyl)methyl)-4,4-difluoropyrrolidine-1-carboxylate | 4.54 mmol, 1.4 g | CON(C(=O)C[C@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C)C | C13H22F2N2O4
reactant | 2-methyl-1-propenylmagnesium bromide | 22.7 mmol, 0.5 M, 45 ml | CC(=C[Mg]Br)C
solvent | THF | 23 ml | C1CCOC1 | C4H8O
product | (R)-tert-butyl 4,4-difluoro-2-(4-methyl-2-oxopent-3-enyl)pyrrolidine-1-carboxylate | 79.5% yield | FC1(C[C@H](N(C1)C(=O)OC(C)(C)C)CC(C=C(C)C)=O)F | C15H23F2NO3
